US07595323B2
N-(5-amino-2-methylphenyl)-4-(3-pyridyl)-2-pyrimidine-amine (2.83 g, 8.29 mmol) was dissolved in tetrahydrofuran (20 ml), triethylamine (1.4 ml, 9.95 mmol) was added thereto, and the mixture was stirred for 30 minutes. 4-Chloromethyl benzoyl chloride (2.03 g, 10.78 mmol) was added and the whole mixture was reacted under reflux for 4 hours. The mixture was filtered, and the filtrate was concentrated and crystallized from water to give N-(5-(4-chloromethylbenzoylamino)-2-methylphenyl)-4-(3-pyridyl)-2-pyrimidine-amine (3.12 g).

reactant | N-(5-amino-2-methylphenyl)-4-(3-pyridyl)-2-pyrimidine-amine | 8.29 mmol, 2.83 g | NC=1C=CC(=C(C1)NC1=NC=CC(=N1)C=1C=NC=CC1)C | C16H15N5
reactant | triethylamine | 9.95 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | 4-Chloromethyl benzoyl chloride | 10.78 mmol, 2.03 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-(5-(4-chloromethylbenzoylamino)-2-methylphenyl)-4-(3-pyridyl)-2-pyrimidine-amine | 3.12 g | ClCC1=CC=C(C(=O)NC=2C=CC(=C(C2)NC2=NC=CC(=N2)C=2C=NC=CC2)C)C=C1 | C24H20ClN5O
